data/mechanisms/records/IMS4-EQ4.30.json
{"mechanism_id": "IMS4-EQ4.30", "species": [{"species_id": "cyclohexane_distonic_radical_cation_84", "mapped_smiles": "[CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2+:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "c4h8_distonic_radical_cation_56", "mapped_smiles": "[CH2:3][CH2:4][CH2:5][CH2+:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethylene", "mapped_smiles": "[CH2:1]=[CH2:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cyclohexane_distonic_radical_cation_84"]}, {"state_id": "state_products", "species_ids": ["c4h8_distonic_radical_cation_56", "ethylene"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 68, "equation": "4.30", "section": "4.8 Decompositions of cyclic structures"}, "confidence": 0.9, "curator_note": "Equation 4.30 (ring decomposition needs TWO ring-bond cleavages to expel a fragment). The full equation draws a three-arrow sequence: (i) cyclohexane loses an electron (-e-) to the C6H12 molecular ion m/z 84, drawn as an intact hexagon with a delocalised '+.', NO arcs; (ii) a sigma ring-bond cleavage isomerises the molecular ion WITHOUT mass change to a ring-opened DISTONIC radical cation, m/z 84 (radical at one chain terminus, charge at the other), NO arcs drawn; (iii) an alpha cleavage at the radical terminus expels neutral ethylene and gives the C4H8 distonic radical cation at m/z 56. THIS RECORD encodes step (iii), the only step the book draws electron arrows for. Structures (i) and (ii) at m/z 84 are drawn but NOT separately encoded: the intact-ring radical cation is a sigma (2-centre-1-electron) radical cation that cannot be localised in a single Kekule SMILES (all ring carbons are 4-coordinate, leaving no room for a localised radical or a 3-coordinate carbenium) -- which is exactly why the book draws it delocalised. The distonic ion m/z 84 IS localisable and is used here as the precursor of the drawn alpha cleavage; it has the same formula/mass (C6H12+., 84.0934) as the molecular ion, so ms_context.precursor_mz = 84.0934 holds for either. ARCS: the book draws THREE fishhook (single-barbed) arcs on structure 3, and ALL THREE encoded moves are drawn -- move <1> the radical-terminus carbon's odd electron -> the forming C1=C2 pi bond [rightmost fishhook, springing from the '.' dot]; move <2> one electron of the C2-C3 sigma bond -> that same forming C1=C2 pi bond [large arc over the ring peak]; move <3> the other electron of the C2-C3 sigma bond -> C3, the new radical site [leftmost fishhook]. This is a complete radical-site alpha-cleavage; NO implicit homolysis hook is required (nothing is left undrawn). The text just below the equation confirms move <1>: 'The unpaired electron in this isomeric ion is donated to form a new bond to the adjacent carbon atom.'"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 84.0934, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_56", "species_id": "c4h8_distonic_radical_cation_56", "step_id": "step_alpha_cleavage", "observed_mz": 56.0621, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
